US04435566
7 g of 2-chloro-4-(N-formylpiperazino)-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine was dissolved in 100 ml of a mixture of methanol-ethanol (1:1 by volume), and 50 ml of a 40% aqueous solution of methylamine was added thereto, followed by gently stirring while warming for 7 hours. A large amount of water was added to the mixture which was then extracted with chloroform. The organic layer was washed with water and dried over magnesium sulfate. The solvent was distilled off and PG,16 the resulting residue was purified by silica gel column chromatography (eluted with ethyl acetate-n-hexane, 1:1 by volume) to obtain 3 g of 2-methylamino-4-(N-formylpiperazino)-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine as colorless prisms having a melting point of 149°-151° C.

reactant | 2-chloro-4-(N-formylpiperazino)-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 7 g | ClC=1N=C(C2=C(N1)CCCS2)N2CCN(CC2)C=O | C12H15ClN4OS
reactant | water | O | H2O
reactant | methylamine | CN | CH5N
solvent | methanol ethanol | CO.C(C)O
product | 2-methylamino-4-(N-formylpiperazino)-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 3 g | CNC=1N=C(C2=C(N1)CCCS2)N2CCN(CC2)C=O | C13H19N5OS
